US07834190B2
Production of (2S,3R)—N-cyclopropyl-3-propyl-2-oxiranecarboxamide
(2S,3R)-3-Propyl-2-oxiranecarboxylic acid (1.16 g, 7.8 mmol), methylene chloride (10 ml) and cyclopropylamine (8.5 equivalents) were mixed, and the mixture was cooled to 5° C. A methylene chloride solution (5 ml) of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (2.23 g, 1.2 equivalents) was gradually added thereto, and the mixture was stirred for 2 hours from 5° C. up to room temperature. The organic layer was washed with water (5 ml), 1 N HCl (5 ml) and water (5 ml); and was dried with anhydrous magnesium sulfate. The inorganic products were separated by filtration, and the filtrate was concentrated under reduced pressure to obtain the title compound as a pale yellow solid (0.70 g, yield: 53%).

reactant | (2S,3R)-3-Propyl-2-oxiranecarboxylic acid | 7.8 mmol, 1.16 g | C(CC)[C@@H]1[C@H](O1)C(=O)O | C6H10O3
reactant | cyclopropylamine | 8.5 equivalents | C1(CC1)N | C3H7N
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 2.23 g, 1.2 equivalents | C(C)N=C=NCCCN(C)C | C8H17N3
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | (2S,3R)—N-cyclopropyl-3-propyl-2-oxiranecarboxamide | 0.70 g, yield: 53% | C1(CC1)NC(=O)[C@H]1O[C@@H]1CCC | C9H15NO2
